US06548511B1
A dichloromethane (10 ml) solution of 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-sec-butyl-6-trifluoromethyl-4(3H)-pyrimidinone (430 mg, 0.96 mmol) and N-chlorosuccinimide (141 mg, 1.06 mmol) was heated under reflux for 4 hours. After completion of the reaction, the solvent was evaporated under a reduced pressure, the resulting residue was suspended in ether (20 ml) and then the solid deposited was filtered. The resulting filtrate was washed with saturated sodium bicarbonate aqueous solution and saturated brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained residue by a silica gel column chromatography (toluene), 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-sec-butyl-5-chloro-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 59] was obtained as colorless crystals.

reactant | 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-sec-butyl-6-trifluoromethyl-4(3H)-pyrimidinone | 0.96 mmol, 430 mg | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=CC(N1C(C)CC)=O)C(F)(F)F)(F)F | C17H14F9N3O
reactant | N-chlorosuccinimide | 1.06 mmol, 141 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-sec-butyl-5-chloro-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 28% | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=C(C(N1C(C)CC)=O)Cl)C(F)(F)F)(F)F | C17H13ClF9N3O
